US04006159
Alternative preparation of 1(and 2 and 4)-Salicyloyl-s-triazole-3-carboxamide
A 25 ml. portion of dry acetonitrile is added to a mixture of 1.3 g. of the s-triazole carboxamide sodium salt and 2 g. of salicyloyl chloride followed by a few pellets of 4A molecular sieves. The mixture is stirred at room temperature for 16 hours and then filtered through Celite. The colorless solid is obtained on evaporating the filtrate is washed with diethyl ether; yield, 1 g., m.p. 147°-150° C. (dec.). Its infrared spectrum is essentially the same as that obtained from the product in Example 7.

reactant | s-triazole carboxamide sodium salt | [Na+].N1N=C(N=C1)C(=O)[NH-]
reactant | salicyloyl chloride | C(C=1C(O)=CC=CC1)(=O)Cl | C7H5ClO2
solvent | acetonitrile | C(C)#N | C2H3N
product | Salicyloyl-s-triazole-3-carboxamide | C(C=1C(O)=CC=CC1)(=O)C1=NC(=NN1)C(=O)N | C10H8N4O3
